US07279580B2
2-[3-(3-Chloro-4-fluorophenyl)-8-fluoroimidazo[1,2-α]pyridin-7-yl]-propan-2-ol and 3-chloro-2-methylbenzeneboronic acid were coupled in the same way as in Example 30 to give 2-[3-(3′-chloro-2-fluoro-2′-methylbiphenyl-5-yl)-8-fluoroimidazo[1,2-α]pyridin-7-yl]propan-2-ol as an off-white solid (5 mg, 4%): m/z (ES+) 413 [MH+].

reactant | 2-[3-(3-Chloro-4-fluorophenyl)-8-fluoroimidazo[1,2-α]pyridin-7-yl]-propan-2-ol | ClC=1C=C(C=CC1F)C1=CN=C2N1C=CC(=C2F)C(C)(C)O | C16H13ClF2N2O
reactant | 3-chloro-2-methylbenzeneboronic acid | ClC=1C(=C(C=CC1)B(O)O)C | C7H8BClO2
product | 2-[3-(3′-chloro-2-fluoro-2′-methylbiphenyl-5-yl)-8-fluoroimidazo[1,2-α]pyridin-7-yl]propan-2-ol | 5 mg, 4% | ClC=1C(=C(C=CC1)C1=C(C=CC(=C1)C1=CN=C2N1C=CC(=C2F)C(C)(C)O)F)C | C23H19ClF2N2O
